### PR TITLE
Let a spec register a intro tactic to prepare step's goals

### PR DESCRIPTION
**Pull request by andricicezar**
Allows a specification to register an introduction tactic to prepare the step's goals. The provided introduction tactic is run after the step theorem is applied, but before the introduction of outputs. The tactic may transform or solve the goal, but it must not split it.

Note that this introduction tactic is not wired in `step*` directly.

### CODE REVIEW

File: backends/lean/Aeneas/Std/WP.lean [hunk 1]
```diff
@@ -664,22 +587,18 @@ example (x : Nat) :
...
 example (x : Nat) :
   (do
     let y ← add1 x
     add1 y) ⦃ y => y = x + 2 ⦄ := by
     -- step as ⟨ y, z ⟩
     apply spec_bind (add1_spec _)
-    simp -failIfUnchanged only -- introduce the quantifiers
-    simp only [qimp_spec_iff] -- eliminate `qimp_spec`
-    intro y h
+    intro_split
```
Comment (andricicezar) [inline backends/lean/Aeneas/Std/WP.lean]: why is it called intro_split?

File: backends/lean/Aeneas/Std/Spec.lean [hunk 2]
```diff
@@ -27,8 +27,22 @@ structure SpecInfo where
...
+  /-- Name of a tactic run on the mono/bind premise left by the step theorem, to bring it
+  to the `∀ x, P₀ → ... → Pₘ → k ⦃ Q ⦄` shape `step` introduces the outputs from.
+
+  It is run on the premise as it stands: it may transform or solve it, but must not create
+  multiple goals. What it introduces in the context is reverted, so it can introduce the
+  binders of the premise and work on the facts among them — `Aeneas.Step.Intro.intro_split`
+  does exactly that, and is all a statement whose premise already is `∀ x, P x → …` needs.
+
+  A tactic which reorders binders must record the output with
+  `Aeneas.Step.Intro.markOutputIndex`.
```
Comment (andricicezar) [inline backends/lean/Aeneas/Std/Spec.lean]: what does this mean?

File: backends/lean/Aeneas/Std/Spec.lean [hunk 3]
```diff
@@ -27,8 +27,22 @@ structure SpecInfo where
...
+
+  Without one, `step` introduces the outputs of the premise as it stands. -/
+  intro_tactic : Option Lean.Name := none
+
+  /-- Optional normalization after output destructuring; it must not create multiple goals. -/
+  post_intro_tactic : Option Lean.Name := none
```
Comment (andricicezar) [inline backends/lean/Aeneas/Std/Spec.lean]: can we convert this into some kind of normalize tactic? there is a lot of simplification going on in step: before applying the theorem, before splitting the output, after splitting the outputs, in postprocessMainGoal

Comment (andricicezar) [reply backends/lean/Aeneas/Std/Spec.lean]: and how does this overlap with step_simps?

File: backends/lean/Aeneas/Std/WP.lean [hunk 4]
```diff
@@ -708,48 +627,33 @@ example (x : Nat) :
...
     -- step as ⟨ y1, z1⟩
     apply spec_mono
     . apply add2_spec'
-    simp -failIfUnchanged only [qimp_uncurry'] -- introduce the quantifiers
-    simp only [qimp_iff, curry, uncurry'] -- eliminate `qimp_spec` and `curry`
-    simp only [imp]
-    intros y z h
-    --
+    intro_split
```
Comment (andricicezar) [inline backends/lean/Aeneas/Std/WP.lean]:
```suggestion
    intro_split
    --
```

File: backends/lean/Aeneas/Std/WP.lean [hunk 5]
```diff
@@ -708,48 +627,33 @@ example (x : Nat) :
...
-
-@[simp]
-theorem imp_exists_iff {α} (P : α → Prop) (Q : Prop) :
-  imp (∃ x, P x) Q ↔ (∀ x, imp (P x) Q) := by
-  simp only [imp, forall_exists_index]
-
-/-- Example with a function outputting `()` (we need to eliminate the quantifier) -/
+/-- Example with a function outputting `()`: the quantifier is over `Unit`, and the fact it
+carries says nothing, so `intro_split` drops it. `step` additionally instantiates the `Unit`
+binder rather than introducing a useless output. -/
```
Comment (andricicezar) [inline backends/lean/Aeneas/Std/WP.lean]: revert comment

File: backends/lean/Aeneas/Tactic/Step/Step.lean [hunk 6]
```diff
@@ -188,6 +191,10 @@ structure Stats extends Goals where
 attribute [step_post_simps]
   Std.IScalar.toNat Std.UScalar.ofNatCore_val_eq Std.IScalar.ofInt_val_eq
 
+attribute [step_post_simps]
+  forall_unit Std.Result.ok.injEq
```
Comment (andricicezar) [inline backends/lean/Aeneas/Tactic/Step/Step.lean]: these should be together with the other step_post_simps

File: backends/lean/Aeneas/Tactic/Step/Step.lean [hunk 7]
```diff
@@ -516,8 +523,8 @@ meta def trySolveTypeclasses (mvarsIds : List MVarId) : TacticM (List MVarId) :=
       pure mvar
 
 /-- Attempt to match a given theorem with the monadic call in the target.
-The resulting target should be of the shape:
-`qimp_spec P k Q` (or `qimp P Q`)
+The resulting target should be the registered judgment's mono/bind premise,
+e.g. `∀ x, P x → k ⦃ Q ⦄`.
```
Comment (andricicezar) [inline backends/lean/Aeneas/Tactic/Step/Step.lean]: add the or case back

File: backends/lean/Aeneas/Tactic/Step/Step.lean [hunk 8]
```diff
@@ -678,142 +685,194 @@ meta def introOneSurfaceBinder {α} (goal : MVarId) (tree : BTree α) :
...
+    return none
+  let post := Expr.lam goalTy.bindingName! (mkConst ``Unit) goalTy.bindingBody!
+    goalTy.bindingInfo!
+  let newGoal ← mkFreshExprSyntheticOpaqueMVar (goalTy.bindingBody!.instantiate1 (mkConst ``Unit.unit))
+  goal.assign (mkApp2 (mkConst ``forall_unit_intro) post newGoal)
+  return some newGoal.mvarId!
+
+/-- Extract the output destructuring requested by the original specification
+goal. Bind goals use the source continuation, while terminal goals use the
+outer postcondition. Falls back to a single output when the shape is unavailable. -/
```
Comment (andricicezar) [inline backends/lean/Aeneas/Tactic/Step/Step.lean]: Redo this comment:
"Extract how the output has to be restructured from target"
And an example for how the target looks in the bind case and in the mono case.

File: backends/lean/Aeneas/Tactic/Step/Step.lean [hunk 9]
```diff
@@ -678,142 +685,194 @@ meta def introOneSurfaceBinder {α} (goal : MVarId) (tree : BTree α) :
...
+meta def getCallSiteTree (info : SpecInfo) (isLet : Bool) (goal : MVarId) :
+    MetaM NameTree := do
+  let fallback : NameTree := .leaf none
+  let goalTy ← instantiateMVars (← goal.getType)
```
Comment (andricicezar) [inline backends/lean/Aeneas/Tactic/Step/Step.lean]: previously, there was no need to instantiateMVars, why is it necessary now?

File: backends/lean/Aeneas/Tactic/Step/Step.lean [hunk 10]
```diff
@@ -678,142 +685,194 @@ meta def introOneSurfaceBinder {α} (goal : MVarId) (tree : BTree α) :
...
+  let (head, specArgs) := goalTy.withApp fun head args => (head.consumeMData, args)
+  unless head.isConstOf info.spec_name && specArgs.size == info.arity do
+    return fallback
+  if isLet then
+    let program := specArgs[info.program_index]!
+    let bindArgs? ←
+      match getBindArgs? program with
+      | some bindArgs => pure (some bindArgs)
+      | none => do
+        let program ← Utils.normalizeLetBindings program
```
Comment (andricicezar) [inline backends/lean/Aeneas/Tactic/Step/Step.lean]: why do we have to do this?

File: backends/lean/Aeneas/Tactic/Step/Step.lean [hunk 11]
```diff
@@ -678,142 +685,194 @@ meta def introOneSurfaceBinder {α} (goal : MVarId) (tree : BTree α) :
...
+    Simp.dsimpAt true {implicitDefEqProofs := true, failIfUnchanged := false, iota := false}
+      { addSimpThms := scalar_eqs } (.targets #[] true)
 
 /-- Introduce the outputs (variables and postconditions) into the context after applying
     the step theorem.
 
-    After application of the step theorem, the target should be of the shape:
-    `qimp_spec P k Q` (or `qimp P Q`)
+    After application of the step theorem, the target is the judgment's mono/bind premise,
+    e.g. `∀ x, P x → k ⦃ Q ⦄`.
```
Comment (andricicezar) [inline backends/lean/Aeneas/Tactic/Step/Step.lean]: add back the mono example

File: backends/lean/Aeneas/Tactic/Step/Step.lean [hunk 12]
```diff
@@ -678,142 +685,194 @@ meta def introOneSurfaceBinder {α} (goal : MVarId) (tree : BTree α) :
...
     We transform it to a target of the shape:
     `∀ x, P' x → P₀ → ... → Pₘ → k ⦃ Q ⦄`
 
     where the single output `x` is destructured according to the call-site
     tree.
 
-    The post `(uncurry' f) x` left after `qimp_spec_iff` is reduced via `uncurry'_eq`
-    to `f x.fst x.snd` (or via `uncurry'_pair`/`uncurry_apply_pair` when `x` was destructured).
+    Normalizing the premise into that shape is the job of the specification statement: it is
+    what the tactic it registers as its `intro_tactic` does.
```
Comment (andricicezar) [inline backends/lean/Aeneas/Tactic/Step/Step.lean]: this comment does not make much sense now. maybe it should be integrated in the comment above?

File: backends/lean/Aeneas/Tactic/Step/Step.lean [hunk 13]
```diff
@@ -678,142 +685,194 @@ meta def introOneSurfaceBinder {α} (goal : MVarId) (tree : BTree α) :
...
-  traceGoalWithNode "goal after eliminating `imp` and folding back the scalar types"
+  trace[Step] "call-site tree: {repr callSiteTree}"
 
+  /- Normalize the premise into the `∀ x, P₀ → ... → Pₘ → k ⦃ Q ⦄` shape. -/
+  let outputIndex ← match info.intro_tactic with
+    | some tac => runIntroTacticWithOutput tac
+    | none => pure none
+  if (← getUnsolvedGoals).isEmpty then trace[Step] "The main goal was solved!"; return none
+  traceGoalWithNode "goal after running `intro_tactic`"
+  foldScalarTypes
```
Comment (andricicezar) [inline backends/lean/Aeneas/Tactic/Step/Step.lean]: how comes this is not the responsability of the intro_tactic? are the scalars unfolded accidently before calling the intro_tactic?

File: backends/lean/Aeneas/Tactic/Step/Step.lean [hunk 14]
```diff
@@ -678,142 +685,194 @@ meta def introOneSurfaceBinder {α} (goal : MVarId) (tree : BTree α) :
...
+  if (← getUnsolvedGoals).isEmpty then trace[Step] "The main goal was solved!"; return none
+  traceGoalWithNode "goal after folding back the scalar types"
   /- Introduce the single output and recursively destructure it according to the
      merged binder tree. We use a fresh internal name here and rename leaves to
      user-provided names later. -/
   let mut outputFVars : Array FVarId := #[]
+  let (witnessFVars, goal) ← (← getMainGoal).introNP (outputIndex.getD 0)
```
Comment (andricicezar) [inline backends/lean/Aeneas/Tactic/Step/Step.lean]: what is this doing?

File: backends/lean/Aeneas/Tactic/Step/Step.lean [hunk 15]
```diff
@@ -678,142 +685,194 @@ meta def introOneSurfaceBinder {α} (goal : MVarId) (tree : BTree α) :
...
 
   -- There might be no quantifier if the function outputs `()`, in which case we
-  -- eliminate the `forall` quantifier (via `forall_unit`) when doing the simplification above.
+  -- instantiate the `forall` quantifier rather than introduce a useless output.
   if goalTy.isForall then
     if ¬ (← isProp goalTy.bindingDomain!) then
-      let (fvs, goal') ← introOneSurfaceBinder goal callSiteTree
-      setGoals [goal']
-      outputFVars := fvs
+      if let some goal' ← elimUnitOutput goal then
```
Comment (andricicezar) [inline backends/lean/Aeneas/Tactic/Step/Step.lean]: why is the if necessary now?

File: backends/lean/Aeneas/Tactic/Step/Step.lean [hunk 16]
```diff
@@ -985,6 +1071,9 @@ meta def postprocessMainGoal (mainGoal : Option MainGoal) : TacticM (Option Main
       trace[Step] "Goal closed by simplifying the introduced post-conditions"
       pure none
     | some posts =>
+      let some (posts, goal) ← simplifyPostLogic (← getMainGoal) posts
+        | setGoals []; return none
+      setGoals [goal]
```
Comment (andricicezar) [inline backends/lean/Aeneas/Tactic/Step/Step.lean]: why is simplifyPostLogic needed?

File: backends/lean/Aeneas/Tactic/Step/Step.lean [hunk 17]
```diff
@@ -678,142 +682,197 @@ meta def introOneSurfaceBinder {α} (goal : MVarId) (tree : BTree α) :
...
+    target of the shape:
     `∀ x, P' x → P₀ → ... → Pₘ → k ⦃ Q ⦄`
 
-    where the single output `x` is destructured according to the call-site
-    tree.
-
-    The post `(uncurry' f) x` left after `qimp_spec_iff` is reduced via `uncurry'_eq`
-    to `f x.fst x.snd` (or via `uncurry'_pair`/`uncurry_apply_pair` when `x` was destructured).
+    We then introduce the single output `x`, destructured according to the call-site
+    tree, and the post-conditions `P₀ ... Pₘ`.
```
Comment (andricicezar) [inline backends/lean/Aeneas/Tactic/Step/Step.lean]: add a comment including an example here, and make it more obvious what call site means
